US06495217B2
Trans methyl 4-hydroxycinnamate (20.0 g, 11.2 mmol), 1-bromohexane (18.5 g, 112 mmol) and potassium carbonate (16.6 g, 120 mmol) were stirred under reflux in butanone. The mixture was allowed to cool after 16 hours, evaporated to dryness and the residue was partitioned between DCM and water. The DCM layer was removed and dried (Na2SO4) and evaporated to leave a yellow solid methyl (E)-3-(4-hexyloxyphenyl)-2-propenoate which was recrystallized from petroleum. Yield=20.0 g, 71%.

reactant | Trans methyl 4-hydroxycinnamate | 11.2 mmol, 20.0 g | OC1=CC=C(/C=C/C(=O)OC)C=C1 | C10H10O3
reactant | 1-bromohexane | 112 mmol, 18.5 g | BrCCCCCC | C6H13Br
reactant | potassium carbonate | 120 mmol, 16.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | CC(CC)=O | C4H8O
product | methyl (E)-3-(4-hexyloxyphenyl)-2-propenoate | C(CCCCC)OC1=CC=C(C=C1)/C=C/C(=O)OC | C16H22O3
